US04551469
Bromobenzene (0.2 mol, 31.4 g) in sodium dry diethyl ether (200 ml) was added dropwise to magnesium (0.22 gram atoms, 5.3 g ). After all the magnesium had reacted, phenacyl chloride (0.1 mol, 15.5 g) in diethyl ether (100 ml) was added dropwise and the solution stirred at room temperature for 1 hour. The reaction mixture was poured into saturated ammonium chloride solution, washed with water (3×150 ml), and dried (Na2SO4). Removal of the ether gave a pale yellow oil which solidified on standing. Recrystallisation from petroleum ether (60°-80°) gave 1,1-diphenyl-2-chloroethan-1-ol (60%) as a white crystalline solid, m.p. 56°-57°.

reactant | Bromobenzene | 0.2 mol, 31.4 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 0.22 gram | [Mg] | Mg
reactant | phenacyl chloride | 0.1 mol, 15.5 g | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | sodium | 200 ml | [Na] | Na
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1,1-diphenyl-2-chloroethan-1-ol | 60% | C1(=CC=CC=C1)C(CCl)(O)C1=CC=CC=C1 | C14H13ClO
